### PR TITLE
Dependent Universal Property of Suspensions

### PR DESCRIPTION
**Pull request by morphismz**
This pr contains:

- the definition of a dependent suspension structure
- the definition of the function dependent-ev-suspension
- the definition of the dependent universal property of suspensions

### CODE REVIEW

**Comment by EgbertRijke** [comment]
A merge conflict came up after merging your previous PR on the adjunction.

**Comment by morphismz** [comment]
> A merge conflict came up after merging your previous PR on the adjunction.

Thanks for the heads up! Looks like it was just a difference in imports. Should be fixed now.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 1]
```diff
@@ -428,6 +431,83 @@ module _
...
+
+```agda
+module _
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2} (B : Y → UU l3)
+  (susp-str : suspension-structure X Y)
+  where
+
+  dependent-suspension-structure : UU (l1 ⊔ l3)
+  dependent-suspension-structure =
+    Σ
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:446]:
```suggestion
    Σ ( B (N-suspension-structure susp-str))
      ( λ N →
        Σ ( B (S-suspension-structure susp-str))
          ( λ S →
            (x : X) →
            dependent-identification
              ( B)
              ( merid-suspension-structure susp-str x)
              ( N)
              ( S)))
```

Just some small modifications to be even more in agda-unimath style:)

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 2]
```diff
@@ -428,6 +434,202 @@ module _
...
+  (d-susp-str0 : dependent-suspension-structure susp-str B)
+  where
+
+  extensionality-dependent-suspension-structure :
+    (d-susp-str1 : dependent-suspension-structure susp-str B) →
+      (d-susp-str0 ＝ d-susp-str1)
+    ≃
+      htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1
+  extensionality-dependent-suspension-structure =
+    extensionality-Σ
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:539]: This code needs some formatting:
- add spaces after opening parentheses,
- `coherence-square-identifications` and its four arguments are indented four spaces too much,
- binary operations such as `＝` should be at the end of the line, not floating somewhere on a new line on its own

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 3]
```diff
@@ -428,6 +434,202 @@ module _
...
+
+module _
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2} (B : Y → UU l3)
+  {susp-str : suspension-structure X Y}
+  {d-susp-str0 d-susp-str1 : dependent-suspension-structure susp-str B}
+  where
+
+  htpy-eq-dependent-suspension-structure :
+    (d-susp-str0 ＝ d-susp-str1) →
+      htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:572]: reduce indentation level

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 4]
```diff
@@ -428,6 +434,202 @@ module _
...
+  htpy-eq-dependent-suspension-structure =
+    map-equiv
+      (extensionality-dependent-suspension-structure B d-susp-str0 d-susp-str1)
+
+  eq-htpy-dependent-suspension-structure :
+    htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1 →
+    d-susp-str0 ＝ d-susp-str1
+  eq-htpy-dependent-suspension-structure =
+    map-inv-equiv
+      (extensionality-dependent-suspension-structure B d-susp-str0 d-susp-str1)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:582]: space after opening parenthesis

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 5]
```diff
@@ -428,6 +434,202 @@ module _
...
+
+  refl-htpy-dependent-suspension-structure :
+    htpy-dependent-suspension-structure B d-susp-str d-susp-str
+  pr1 refl-htpy-dependent-suspension-structure = refl
+  pr1 (pr2 refl-htpy-dependent-suspension-structure) = refl
+  pr2 (pr2 refl-htpy-dependent-suspension-structure) x = right-unit
+
+  is-refl-refl-htpy-dependent-suspension-structure :
+      refl-htpy-dependent-suspension-structure
+    ＝
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:598]: move this binary operation to end of previous line; reduce indentation level.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 6]
```diff
@@ -428,6 +434,202 @@ module _
...
+      htpy-eq-dependent-suspension-structure B refl
+  is-refl-refl-htpy-dependent-suspension-structure = refl
+```
+
+### The dependent universal property of suspensions
+
+```agda
+dependent-ev-suspension :
+    {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2}
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:607]: reduce indentation level here and on next few lines

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 7]
```diff
@@ -428,6 +434,202 @@ module _
...
+
+  dependent-universal-property-suspension : UU (l1 ⊔ l2 ⊔ lsuc l)
+  dependent-universal-property-suspension =
+    (B : Y → UU l) → is-equiv (dependent-ev-suspension susp-str B)
+```
+
+We now show that the suspension of a type `X` has the dependent universal
+property of suspensions. This requires a few preliminaries.
+
+[To Do]
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:631]: The syntax `[To Do]` with square brackets `[ ]` indicates to markdown that its content is part of a link. So we shouldn't use it for to do's. In general I think we shouldn't write "To do" too much on the website. It will be very strange if the library looks littered with "to do"s.

**Review by EgbertRijke — COMMENTED** [review]
In general, put lambda-expressions in parentheses like everything else. I know that agda allows and encourages lambda-expressions to not be in parentheses, but having such inconsistent style makes the code harder to read.

**Comment by morphismz** [comment]
sorry about all the formatting errors! I'll make sure to be better about that in subsequent prs. This one should be fixed, though.

**Comment by EgbertRijke** [comment]
Awesome! I thought I'd just go through them systematically, since you are a serious contributor now:)

**Comment by morphismz** [comment]
Thanks, the feedback is helpful! And let me know if there is anything else to do on this pr.

Also, in general, should I mark the conversations as resolved when I make those changes? Or leave it to the reviewer to come back and mark them as resolved when they agree my changes fix the problem?

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 8]
```diff
@@ -428,6 +434,189 @@ module _
...
+  S-dependent-suspension-structure : B (S-suspension-structure susp-str)
+  S-dependent-suspension-structure = (pr1 ∘ pr2) (d-susp-str)
+
+  merid-dependent-suspension-structure :
+    (x : X) →
+      dependent-identification
+        ( B)
+        ( merid-suspension-structure susp-str x)
+        ( N-dependent-suspension-structure)
+        ( S-dependent-suspension-structure)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:492]: The indentation level is kept constant before and after a "binary operator":
```suggestion
    (x : X) →
    dependent-identification
      ( B)
      ( merid-suspension-structure susp-str x)
      ( N-dependent-suspension-structure)
      ( S-dependent-suspension-structure)
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 9]
```diff
@@ -428,6 +434,189 @@ module _
...
+                    S-dependent-suspension-structure d-susp-str1)
+                  ( λ S-htpy →
+                    (x : X) →
+                      coherence-square-identifications
+                        ( merid-dependent-suspension-structure d-susp-str0 x)
+                        ( S-htpy)
+                        ( ap
+                          ( tr B (merid-suspension-structure susp-str x))
+                          ( N-htpy))
+                        ( merid-dependent-suspension-structure d-susp-str1 x)))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:520]:
```suggestion
    Σ ( N-dependent-suspension-structure d-susp-str0 ＝
        N-dependent-suspension-structure d-susp-str1)
      ( λ N-htpy →
        Σ ( S-dependent-suspension-structure d-susp-str0 ＝
            S-dependent-suspension-structure d-susp-str1)
          ( λ S-htpy →
            (x : X) →
            coherence-square-identifications
              ( merid-dependent-suspension-structure d-susp-str0 x)
              ( S-htpy)
              ( ap
                ( tr B (merid-suspension-structure susp-str x))
                ( N-htpy))
              ( merid-dependent-suspension-structure d-susp-str1 x)))
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 10]
```diff
@@ -428,6 +434,189 @@ module _
...
+module _
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2} (B : Y → UU l3)
+  {susp-str : suspension-structure X Y}
+  (d-susp-str0 : dependent-suspension-structure susp-str B)
+  where
+
+  extensionality-dependent-suspension-structure :
+    (d-susp-str1 : dependent-suspension-structure susp-str B) →
+      (d-susp-str0 ＝ d-susp-str1) ≃
+      (htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:531]:
```suggestion
    ( d-susp-str1 : dependent-suspension-structure susp-str B) →
    ( d-susp-str0 ＝ d-susp-str1) ≃
    ( htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1)
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 11]
```diff
@@ -428,6 +434,189 @@ module _
...
+
+module _
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2} (B : Y → UU l3)
+  {susp-str : suspension-structure X Y}
+  {d-susp-str0 d-susp-str1 : dependent-suspension-structure susp-str B}
+  where
+
+  htpy-eq-dependent-suspension-structure :
+    (d-susp-str0 ＝ d-susp-str1) →
+      htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:565]:
```suggestion
    (d-susp-str0 ＝ d-susp-str1) →
    htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 12]
```diff
@@ -428,6 +434,189 @@ module _
...
+      ( extensionality-Σ
+        ( λ m1 S-htpy →
+          (x : X) →
+            ( merid-dependent-suspension-structure d-susp-str0 x ∙ S-htpy) ＝
+            ( m1 x))
+        ( refl)
+        ( λ x₁ → right-unit)
+        ( λ S → id-equiv)
+        ( λ m1 →
+          equiv-concat-htpy right-unit-htpy m1 ∘e inv-equiv equiv-eq-htpy))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:555]: When indexed variables are not strictly needed, it is preferable to avoid them as they introduce unnecessary cognitive load. I.e.

```suggestion
      ( λ (S , m) (N-htpy) →
        Σ (S-dependent-suspension-structure d-susp-str0 ＝ S)
          ( λ S-htpy →
            (x : X) →
            coherence-square-identifications
              ( merid-dependent-suspension-structure d-susp-str0 x)
              ( S-htpy)
              ( ap (tr B (merid-suspension-structure susp-str x)) N-htpy)
              ( m x)))
      ( refl)
      ( refl , λ x → right-unit)
      ( λ N → id-equiv)
      ( extensionality-Σ
        ( λ m S-htpy →
          (x : X) →
          ( merid-dependent-suspension-structure d-susp-str0 x ∙ S-htpy) ＝
          ( m x))
        ( refl)
        ( λ x → right-unit)
        ( λ S → id-equiv)
        ( λ m →
          equiv-concat-htpy right-unit-htpy m ∘e inv-equiv equiv-eq-htpy))
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 13]
```diff
@@ -428,6 +434,189 @@ module _
...
+    (x : X) →
+      dependent-identification
+        ( B)
+        ( merid-suspension-structure susp-str x)
+        ( N-dependent-suspension-structure)
+        ( S-dependent-suspension-structure)
+  merid-dependent-suspension-structure = (pr2 ∘ pr2) (d-susp-str)
+```
+
+We characterize equalities in the type of dependent suspension structures:
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:496]: This can be promoted to a header, I think :)
```suggestion
#### Characterizing equality of dependent suspension structures
```

**Review by fredrik-bakke — COMMENTED** [review]
It seems some of Egbert's comments were not resolved properly. I've taken the liberty to reopen them and suggest the proper formatting. I also inserted a couple of my own suggestions. Hope this helps!

**Comment by morphismz** [comment]
Oh thanks Fredrik. I think I misunderstood some of the suggestions, and mistakenly thought I implemented some of the others.

**Comment by fredrik-bakke** [comment]
No worries! The comments can be a bit hard to keep track of sometimes. If you're using VS Code, I can recommend using the [GitHub Pull Requests and Issues](https://marketplace.visualstudio.com/items?itemName=GitHub.vscode-pull-request-github) extension. It will display the comments directly in your code where they were placed.

Anyways, everything seems to be in order now, so I'll merge this PR. Thank you again!
